US07030118B2
E) (±)-N-{3-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-propyl}-carbamic acid tert-butyl ester
A mixture of (±)-2-(1-aminopropyl)-3-benzyl-7-chloro-3-H-pyrrolo[2,1-f][1,2,4]triazine-4-one (0.45 g, 1.42 mmol), N-BOC-aminopropanal (J. Med. Chem., 1985, 28, 317–323, 2.36 g, 13.6 mmol) and HOAc (0.2 mL) in MeOH (12 mL) was treated with NaBH(OAc)3 (1.5 g, 6.7 mmol) and stirred at rt overnight. The reaction mixture was quenched with saturated NaHCO3 solution, extracted with EtOAc (3×80 mL). The EtOAc solution was dried over MgSO4 and concentrated to an oil. Purification of the crude product by flash column chromatography (SiO2, EtOAc/Hexane 3.5:6.5 to 3:2) gave the title compound as a pale oil (0.52 g, 77.6%): MS (ESI+) 474.24, 474.26 (M++H).

reactant | (±)-2-(1-aminopropyl)-3-benzyl-7-chloro-3-H-pyrrolo[2,1-f][1,2,4]triazine-4-one | 1.42 mmol, 0.45 g | NC(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2Cl | C16H17ClN4O
reactant | N-BOC-aminopropanal | 13.6 mmol, 2.36 g | C(=O)(OC(C)(C)C)NC(C=O)C | C8H15NO3
reactant | HOAc | 0.2 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 6.7 mmol, 1.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 12 mL | CO | CH4O
product | (±)-N-{3-[1-(3-Benzyl-7-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-propyl}-carbamic acid tert-butyl ester | 0.52 g, 77.6% | C(C)(C)(C)OC(NCCCNC(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2Cl)=O | C24H32ClN5O3
